US07368472B2
[4-(4-Chloro-benzenesulfonyl)-3-methyl-thiophen-2-yl]-methanol
A solution of 4-(4-Chloro-benzenesulfonyl)-3-methyl-thiophene-2-carboxylic acid methyl ester (992 mg, 3.00 mmol) in dry tetrahydrofuran (20 mL) and dry CH2Cl2 (10 mL) was cooled to 0° C. under N2, and DIBAL-H (9.0 mL, 9.0 mmol, 1 M solution in toluene) was added. After 3 hours, another portion of DIBAL-H (4.5 mL, 4.5 mmol) was added, and stirring was continued for another 2 hours. The reaction was quenched by the addition of saturated Rochelle salt solution (30 mL), and the mixture was stirred for 1 hour at room temperature. The phases were separated, the aqueous phase was extracted with EtOAc (2×50 mL) and the pooled organic layers were dried over Na2SO4 and evaporated in vacuo. The product was purified by chromatography on silica gel on a FlashMaster system using as eluent heptane/ethyl acetate (linear gradient elution from 1:0 to 6:4). Fractions containing the product were pooled and evaporated in vacuo to yield the desired compound (788 mg, 87%). LC-MS: (m/z)=285.2 (M−H2O+H+), calcd for C12H10ClO2S2: 284.9805, tR=2.45 min. 1H NMR (CDCl3): 1.84 (t, J=5.7 Hz, 1 H), 2.20 (s, 3 H), 4.73 (d, J=5.7 Hz, 2 H), 7.49 (d, J=8.5 Hz, 2 H), 7.84 (d, J=8.5 Hz, 2 H), 8.18 (s, 1 H).

reactant | 4-(4-Chloro-benzenesulfonyl)-3-methyl-thiophene-2-carboxylic acid methyl ester | 3.00 mmol, 992 mg | COC(=O)C=1SC=C(C1C)S(=O)(=O)C1=CC=C(C=C1)Cl | C13H11ClO4S2
reactant | DIBAL-H | 9.0 mmol, 1 M, 9.0 mL | CC(C)C[AlH]CC(C)C
reactant | DIBAL-H | 4.5 mmol, 4.5 mL | CC(C)C[AlH]CC(C)C
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | [4-(4-Chloro-benzenesulfonyl)-3-methyl-thiophen-2-yl]-methanol | 788 mg, 87% | ClC1=CC=C(C=C1)S(=O)(=O)C=1C(=C(SC1)CO)C | C12H11ClO3S2
